US09340549B2
Synthesis of (S)-3-(4-(1H-benzo[d][1,2,3]triazol-1-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one
A glass microwave reaction vessel was charged with (S)-3-(4-bromophenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (100 mg, 0.289 mmol), benzotriazole (25.3 μL, 0.289 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.), copper (I) iodide (5.50 mg, 0.029 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.), 3,4,7,8-tetramethyl-1,10-phenanthroline (27.3 mg, 0.116 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.) and cesium carbonate (188 mg, 0.578 mmol) in DMSO (578 μL). The reaction mixture was stirred and heated in a heating block at 140° C. for 4 hours. LC-MS indicated complete conversion to the desired product. After cooling to room temperature, the reaction mixture was passed through a syringe filter. The material thus obtained was purified by reverse-phase preparative HPLC using 0.1% TFA in ACN/H2O, gradient 20% to 90% over 20 minutes. The pure fractions were combined and diluted with 30% ammonium hydroxide, and the aqueous layer was extracted with DCM (3×20 mL) to provide (S)-3-(4-(1H-benzo[d][1,2,3]triazol-1-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (10 mg, 0.026 mmol, 9.01% yield) as a white solid. 1H NMR (500 MHz, DMSO-d6) δ 8.15 (d, J=8.33 Hz, 1H), 7.85 (d, J=8.33 Hz, 1H), 7.77-7.84 (m, 4H), 7.62 (dd, J=7.16, 7.91 Hz, 1H), 7.50 (d, J=7.48 Hz, 1H), 7.38-7.44 (m, J=7.60 Hz, 2H), 7.29-7.37 (m, 3H), 5.57 (s, 1H), 1.68 (s, 3H), 0.94 (s, 3H). m/z (ESI) 385.2 (M+H)+.

reactant | (S)-3-(4-bromophenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.289 mmol, 100 mg | BrC1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O | C17H16BrNO2
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 3,4,7,8-tetramethyl-1,10-phenanthroline | CC=1C=NC2=C3N=CC(=C(C3=CC=C2C1C)C)C | C16H16N2
reactant | cesium carbonate | 0.578 mmol, 188 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 578 μL | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | [Cu]I
product | (S)-3-(4-(1H-benzo[d][1,2,3]triazol-1-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | N1(N=NC2=C1C=CC=C2)C2=CC=C(C=C2)N2C(OC([C@@H]2C2=CC=CC=C2)(C)C)=O | C23H20N4O2
